datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([O:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[O:3][H:11])([H:4])([H:5])[H:6].[H:7][C:12]([H:13])([H:14])[H:15],16.7778
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[C:23]([H:24])([H:25])[H:26])[H:14])[H:13])([H:11])[H:12],27.7399
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[C:22](=[C:23]([C:24]([C:25]([H:30])([H:31])[H:32])[C:26]([H:33])([H:34])[H:35])[H:29])([H:27])[H:28]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][C:24]([C:23](=[C:22]([H:27])[H:28])[H:29])([C:25]([H:30])([H:31])[H:32])[C:26]([H:33])([H:34])[H:35],68.1992
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[C:13]([C:12](=[C:11]([H:15])[H:16])[H:17])([C:14]([H:19])([H:20])[H:21])[H:18])[H:5],51.1703
[C:0]([C:1]([O:2][O:3][H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[O:13][O:14][H:21])([H:15])([H:16])[H:17]>>[C:0]([C:1]([O:2][O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][C:11]([C:10]([H:15])([H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[O:13][O:14][H:21],-22.0497
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[C:6]([C:7](=[C:8]([C:9]([C:10](=[C:11]([H:23])[H:24])[H:22])[H:21])[H:20])[H:19])([H:17])[H:18])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[C:6]([H:17])([H:18])[C:7]([H:19])=[C:8]([H:20])[C:9]1([C:10](=[C:11]([H:23])[H:24])[H:22])[H:21])[H:12],117.152
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4](=[C:5]([C:6]([C:7]([C:8]([H:20])([H:21])[H:22])=[C:9]([C:10]([H:23])([H:24])[H:25])[C:11]([H:26])([H:27])[H:28])([H:18])[H:19])[H:17])[H:16])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])=[C:5]([H:17])[C:6]([H:18])([H:19])[C:7]([C:8]([H:20])([H:21])[H:22])[C:9]1([C:10]([H:23])([H:24])[H:25])[C:11]([H:26])([H:27])[H:28])[H:12],125.646
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[H:9])([H:8])[C:14]([C:13]([H:17])([H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:7])([H:5])[H:6],14.9369
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[C:13]([H:20])([H:21])[H:22],0.0
[N:0]([O:1][H:3])[H:2].[O:4][N:5]=[O:6]>>[H:3][O:4][N:5]=[O:6].[N:0](=[O:1])[H:2],8.368
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[S:13][H:20])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:11]([C:10]([H:14])([H:15])[H:16])([C:12]([H:17])([H:18])[H:19])[S:13][H:20],-5.4392
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:22])([H:23])[H:24])([C:16](=[C:17]([H:26])[H:27])[H:25])[H:21])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:21])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:22])([H:23])[H:24])[C:16](=[C:17]([H:26])[H:27])[H:25])[H:20])([H:18])[H:19],-6.276
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([C:6]([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])([H:14])[H:15])[H:13])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])[C:5]([H:14])([H:15])[C:6]1([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])[H:9],148.574
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([O:18][O:19])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([C:3]([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][O:19][O:18][C:17]([H:20])([H:21])[H:22],76.48352
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20][C:21](=[C:22]([H:26])[H:27])[H:25])([H:23])[H:24]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][C:20](=[C:19]([H:23])[H:24])[C:21](=[C:22]([H:26])[H:27])[H:25],45.6056
